US04952397
N-Cyano-4-pyridylmethanesulfonamide
Anhydrous cyanamide (32 g, 0.76 mol) was dissolved in acetonitrile (600 ml) in a 2 l, 3-necked flask equipped with a mechanical stirrer, drying tube, and two dropping funnels. The solution was cooled in a 1:1 ethanol-water bath that was maintained at -20° C. by the addition of dry ice. Solutions of pyridine (57 g, 0.72 mol) in acetonitrile (70 ml) and of 4-pyridylmethanesulfonyl chloride triflate (130 g, 0.38 mol) in acetonitrile (200 ml) were added simultaneously at such a rate that the additions of both solutions were completed in 3 hrs. The resulting suspension was stirred at -10° C. for 1 hr and then filtered and the solids washed with cold acetonitrile (50 ml). The solid portion was recrystallized by adding it to ice-cold water (100 ml). The product was filtered off and washed with ice-water (100 ml) to give a light yellow solid (49.5 g). The mother liquors were refrigerated overnight to give additional product (5 g, 73% total yield).

reactant | cyanamide | 0.76 mol, 32 g | N#CN | CH2N2
reactant | pyridine | 0.72 mol, 57 g | N1=CC=CC=C1 | C5H5N
reactant | 4-pyridylmethanesulfonyl chloride triflate | 0.38 mol, 130 g | OS(=O)(=O)C(F)(F)F.N1=CC=C(C=C1)CS(=O)(=O)Cl
solvent | acetonitrile | 600 ml | C(C)#N | C2H3N
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | N-Cyano-4-pyridylmethanesulfonamide | 49.5 g | C(#N)NS(=O)(=O)CC1=CC=NC=C1 | C7H7N3O2S
